US07186734B2
A solution of 1 mmol of 3,4-dichloroimidazole in anhydrous DMF (5 mL) is treated with sodium hydride (1.05 mmol) at 0° C. under nitrogen with magnetic stirring. After 30 min., 2-chloroethyl methyl ether (1 mmol) is added and the reaction mixture is warmed to 60° C. for 2 h. The reaction mixture is cooled, portioned between water and ethyl acetate. The organic layer is separated, washed with water, brine and dried over sodium sulfate. The reaction mixture is filtered, evaporated and purified by chromatography on silica gel to obtain 1-methoxyethyl-3,4-dichloroimidazole.

reactant | 3,4-dichloroimidazole | 1 mmol | ClN1C=NC=C1Cl | C3H2Cl2N2
reactant | sodium hydride | 1.05 mmol | [H-].[Na+]
reactant | 2-chloroethyl methyl ether | 1 mmol | COCCCl | C3H7ClO
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-methoxyethyl-3,4-dichloroimidazole | COC(C)C1=NC=C(N1Cl)Cl | C6H8Cl2N2O
